data/mechanism_extracts/JOC/10.1021_acs.joc.1c01267.json
{"doi": "10.1021_acs.joc.1c01267", "journal": "JOC", "is_review": false, "rxn_class_summary": "Electrochemical selenylation/cyclization of N-aryl acrylamides (and related alkenes) with diphenyl diselenide to access SePh-functionalized oxindoles and isobenzofuran-imines", "mechanism_family": ["cation_initiated", "direct_SET", "radical_anodic"], "electrochemical_role": "Anodic oxidation of PhSeSePh (two sequential SET events) generates phenylselenium cation (PhSe+) and phenylselenium radical (PhSe•); cathode reduces protons to H2", "key_intermediates": [{"name": "phenylselenium cation (PhSe+)", "smiles": "[Se+](c1ccccc1)", "role": "reactive"}, {"name": "phenylselenium radical (PhSe•)", "smiles": "[Se](c1ccccc1)", "role": "transient"}, {"name": "seleniranium ion C (three-membered Se+ adduct on alkene)", "smiles": null, "role": "reactive"}, {"name": "benzylic/tertiary carbocation D after ring-opening with SePh on CH2", "smiles": null, "role": "reactive"}, {"name": "Wheland-type oxocarbenium/iminium intermediate E from intramolecular nucleophilic attack by carbonyl/amide oxygen", "smiles": null, "role": "reactive"}, {"name": "selenylated oxindole/isobenzofuran-imine product (3a/5a)", "smiles": null, "role": "reactive"}], "electron_flow": "PhSeSePh is oxidized at the anode in two SET steps to PhSe• and PhSe+; PhSe+ adds across the alkene of the N-aryl acrylamide to form a seleniranium ion, which is opened by the pendant carbonyl/amide oxygen (intramolecular nucleophilic cyclization) to give a cationic intermediate; deprotonation furnishes the product while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Selenylation product 3a still obtained in excellent yield, suggesting the major pathway is not radical"}, {"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Did not suppress formation of 3a, consistent with a non-radical (ionic) pathway"}, {"name": "PhSeCl", "smiles": "Cl[Se]c1ccccc1", "purpose": "intermediate_trap", "observation": "Provided 3a in 43% yield under non-electrochemical conditions, supporting involvement of an electrophilic PhSe+ species (but does not fully exclude a radical pathway)"}, {"name": "PhSSPh", "smiles": "S(Sc1ccccc1)c1ccccc1", "purpose": "other", "observation": "Analogous sulfurized product 9 formed in 45% yield under standard electrochemical conditions, indicating generality of the electrophilic chalcogen pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "CV showed PhSeSePh oxidizes at 1.416 V and 1.757 V (vs Ag/AgCl), both below substrate 1a (2.101 V), supporting preferential anodic oxidation of the diselenide rather than the alkene. The authors favor an ionic (seleniranium) pathway initiated by anodically generated PhSe+, but explicitly note that a radical pathway involving PhSe• addition cannot be ruled out for other substrate classes (e.g., acrylamides 4 leading to oxindoles 5)."}
